US04198425
6-(p-Benzyloxyphenyl)-3-hexen-2-one
A solution of 21.2 g of 3-(p-benzyloxyphenyl)propionaldehyde and 30.9 g of acetylmethylenetriphenylphosphorane in 120 ml of tetrahydrofuran was heated under reflux for 4.5 hours, the solvent was then evaporated and the residual crystals were recrystallized from a mixture of n-hexane and ether (5:1) to give 26.1 g of the desired compound melting at 70°-72° C.

reactant | 3-(p-benzyloxyphenyl)propionaldehyde | 21.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC=O | C16H16O2
reactant | acetylmethylenetriphenylphosphorane | 30.9 g | C(C)(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 6-(p-Benzyloxyphenyl)-3-hexen-2-one | 26.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC=CC(C)=O | C19H20O2
